US07696215B2
Using an analogous procedure to that described paragraph (B) in the portion of Example 1 which is concerned with the preparation of starting material N-methyl piperazine was reacted with methyl 3-(8-cyano-6-iodo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate to give methyl 3-[8-cyano-6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate; NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 2.24 (s, 3H), 2.49 (m, 4H, masked by DMSO), 3.36 (m, 4H), 3.88 (s, 3H), 7.63 (d, 1H), 7.70 (d, 1H), 8.03 (m, 2H), 8.13 (d, 1H), 8.28 (s, 1H); Mass Spectrum: M+H+ 418.

reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
reactant | methyl 3-(8-cyano-6-iodo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)OC)C=CC1C)=O)I | C18H12IN3O3
product | methyl 3-[8-cyano-6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)OC)C=CC1C)=O)N1CCN(CC1)C | C23H23N5O3
